US04664694
3,4-Dichloroaniline (16.2 g, 0.1 mol) and mercaptosuccinic acid (15 g) were dissolved in xylene (200 ml). While stirring, 37% formalin (8.5 ml) was added followed by heating to reflux. The water formed (9 ml) during this reaction was removed azeotropically. The reaction mixture was filtered hot, befored removing the solvent, to leave an oil, 3-(3,4-dichlorophenyl)-4-oxo-5-thiazolidineacetic acid, which solidified. This crude product was esterified in isopropyl alcohol (500 ml) and concentrated sulfuric acid (3 ml). Removal of the solvent left a crude product which was taken up in methylene chloride, washed with water, dried and evaporated. Recrystallization of the product from toluene/ligroin gave 1-methylethyl 3-(3,4-dichlorophenyl)-4-oxo-5-thiazolidineacetate which had a melting point of 54°-56° C.

reactant | 3,4-Dichloroaniline | 0.1 mol, 16.2 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | mercaptosuccinic acid | 15 g | SC(C(=O)O)CC(=O)O | C4H6O4S
reactant | formalin | 8.5 ml | C=O | CH2O
reactant | water | O | H2O
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(3,4-dichlorophenyl)-4-oxo-5-thiazolidineacetic acid | ClC=1C=C(C=CC1Cl)N1CSC(C1=O)CC(=O)O | C11H9Cl2NO3S
